Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___, nonsmoker, history of asthma, initially presented to PCPs 
office with ___ right sided nonradiating pleuritic chest pain 
worsened with inspiration and was alleviated with rest that she 
noticed soon after the ___.  This pain was 
associated with SOB and she tried her asthma inhalers without 
relief.  She denies any objective fevers, but did have night 
sweats, chills, headache and change in appetite.  She denies any 
chest pain, abdominal pain, nausea, vomiting, diarrhea, or leg 
pain.
.
Given concern for possible PE, she was sent to the ED were 
workup consisted of a negative CTA, although CXR and CT Chest 
revealed a RLL pneumonia.  She was given fluids and started on 
Levofloxacin IV.
 
Past Medical History:
Asthma - on singulair and advair
Low Back Pain - Sees ___ pain clinic and has received epidural 
injections
Hyperlipidemia
L Knee pain - s/p Bilateral knee replacements
Depression - follows with Psych
s/p laparoscopic sigmoidectomy/rectopexy for rectal prolapse 
___
 
Social History:
___
Family History:
mother-polymyalgia ___
father: died of stomach cancer
aunt: died of stomach cancer
 
Physical Exam:
Vitals - T:99.7  BP:115/68  HR:105  RR:16  02 sat: 96RA  
GENERAL: NAD, alert and oriented x 3
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, dry MM, good dentition, nontender supple neck, no 
LAD, no JVD
CARDIAC: RRR, S1/S2, no mrg
LUNG: slight crackles in RLL field, no adventitious sounds
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
M/S: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities
PULSES: 2+ DP pulses bilaterally
NEURO: CN II-XII intact

 
Pertinent Results:
___ 11:20AM BLOOD WBC-11.7*# RBC-3.97* Hgb-12.9 Hct-38.0 
MCV-96 MCH-32.3* MCHC-33.8 RDW-12.6 Plt ___
___ 05:25AM BLOOD WBC-10.3 RBC-3.66* Hgb-11.9* Hct-35.3* 
MCV-97 MCH-32.6* MCHC-33.7 RDW-12.8 Plt ___
___ 11:20AM BLOOD Neuts-82.2* Lymphs-11.1* Monos-5.3 
Eos-1.0 Baso-0.5
___ 11:20AM BLOOD ___ PTT-27.1 ___
___ 11:20AM BLOOD Glucose-88 UreaN-13 Creat-0.8 Na-137 
K-4.1 Cl-101 HCO3-26 AnGap-14
___ 05:25AM BLOOD Glucose-77 UreaN-7 Creat-0.7 Na-143 K-4.5 
Cl-111* HCO3-25 AnGap-12
___ 11:20AM BLOOD CK(CPK)-180*
___ 11:20AM BLOOD CK-MB-3
___ 11:20AM BLOOD cTropnT-<0.01
___ 08:10PM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:25AM BLOOD Calcium-8.5 Phos-3.6 Mg-2.2
___ 03:27PM BLOOD Lactate-0.6
.
Micro: 
Blood culture (___): Pending.
.
CXR (___): Right lower lobe pneumonia. Recommend followup 
to clearance.
.
CTA Chest (___): 1. No evidence of pulmonary embolism. 2. 
Focal right lower lobe infiltrate consistent with infectious 
etiology, please follow-up to clearance. 3. Asymetric the right 
breast tissue. Please correlate clinically, and mammography can 
be obtained as clinically indicated. 
 
Brief Hospital Course:
The patient presented with complaints of chest pain. EKG showed 
no abnormalities. Labs were remarkable for a mild leukocytosis. 
She had 2 sets of negative cardiac enzymes and a CTA negative 
for PE but notable for a right lower lobe pneumonia also seen on 
CXR. The patient was started on levofloxacin with improvement in 
WBC to normal within 24 hours and was discharged on a 7 day 
course of this antibiotic. The patient should have repeat CXR in 
approximately 6 weeks time to monitor for resolution.

Incidental note was made on CT of asymmetric right breast tissue 
of unclear significance. She should undergo outpatient breast 
exam and mammography in accordance with her age.

The patient continued on her home pain regimen while in the 
hospital.
 
Medications on Admission:
CELECOXIB [CELEBREX] -  (Recording only) - 200 mg Capsule - i
Capsule(s) by mouth once a day
FENTANYL -  (Prescribed by Other Provider; Dose adjustment - no
new Rx) - 100 mcg/hour Patch 72 hr -  every 48hours
FLUTICASONE [FLONASE] -  (Recording only) - 50 mcg Spray,
Suspension - ii puffs intranasal qd right and left
FLUTICASONE [FLOVENT HFA] - 110 mcg/Actuation Aerosol - ii puffs
ih twice a day
LEVOTHYROXINE -  (Prescribed by Other Provider) - 100 mcg Tablet 
-
1 (One) Tablet(s) by mouth once a day
METHYLPHENIDATE [RITALIN] -  (Prescribed by Other Provider) - 20
mg Tablet - 1 (One) Tablet(s) by mouth three times a day
MONTELUKAST [SINGULAIR] -  (Recording) - 10 mg Tablet - i
Tablet(s) by mouth once a day
OXYCODONE -  (Prescribed by Other Provider) - 5 mg Tablet - ___
(Two) Tablet(s) by mouth every four hours as needed
POLYETHYLENE GLYCOL 3350 [MIRALAX] - 100 % Powder - 17 gm by
mouth at bedtime
VENLAFAXINE [EFFEXOR XR] -  (Prescribed by Other Provider) - 150
mg Capsule, Sust. Release 24 hr - 2 Capsule(s) by mouth once a
day
ZIPRASIDONE HCL [GEODON] -  (Prescribed by Other Provider) - 40
mg Capsule - 1 (One) Capsule(s) by mouth four times a day
ZONISAMIDE -  (Prescribed by Other Provider) - 100 mg Capsule - 
2
(Two) Capsule(s) by mouth twice a day
 
Medications - OTC
CALCIUM-CHOLECALCIFEROL (D3) [CALCIUM 600 + D(3)] -  (OTC) - 600
mg-400 unit Tablet - i Tablet(s) by mouth twice a day
SENNOSIDES-DOCUSATE SODIUM [___] -  (Recording only) -
8.6 mg-50 mg Tablet - iii Tablet(s) by mouth once a day
 
Discharge Medications:
1. Celecoxib 200 mg Capsule Sig: One (1) Capsule PO qd ().  
2. Fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q48H (every 48 hours).  
3. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
4. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
5. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Methylphenidate 10 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
7. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed.  
9. Polyethylene Glycol 3350 100 % Powder Sig: One (1)  PO QHS 
(once a day (at bedtime)).  
10. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Four (4) 
Capsule, Sust. Release 24 hr PO DAILY (Daily).  
11. Ziprasidone HCl 40 mg Capsule Sig: One (1) Capsule PO four 
times a day.  
12. Zonisamide 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
13. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO Q24H 
(every 24 hours) for 6 days.
Disp:*18 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pneumonia

Chronic pain
Depression
Asthma
Hyperlipidemia

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with a pneumonia. Please complete a course of 
antibiotics as prescribed to treat this problem. You should also 
have a repeat chest x-ray in 6 weeks to further evaluate for 
resolution of this problem.

Follow-up in your primary care doctor's office.

Call your doctor or return to the hospital for any new or 
worsening fevers, chills, nightsweats, nausea, vomiting or any 
other concerning symptoms.
 
Followup Instructions:
___